US06730803B2
Synthesis of tert-butyl 4-cyano-3-hydroxy-4-methylpentanoate
In a 300 mL four-necked flask were charged dry THF (105 mL) and tert-butyl 4-cyano-4-methyl-3-oxopentanoate (30.07 g, 0.142 mol), and sodium borohydride (3.24 g, 0.0854 mol) was added. The reaction mass was stirred at room temperature for 2 hr and disappearance of the starting material was confirmed by thin-layer chromatography (TLC). After the confirmation, the reaction mixture was used as it was in Example 3.

reactant | tert-butyl 4-cyano-4-methyl-3-oxopentanoate | 0.142 mol, 30.07 g | C(#N)C(C(CC(=O)OC(C)(C)C)=O)(C)C | C11H17NO3
reactant | sodium borohydride | 0.0854 mol, 3.24 g | [BH4-].[Na+]
solvent | THF | 105 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-cyano-3-hydroxy-4-methylpentanoate | C(#N)C(C(CC(=O)OC(C)(C)C)O)(C)C | C11H19NO3
